### PR TITLE
[Merged by Bors] - feat: finite-dimensional manifolds are locally compact

### PR DESCRIPTION
**Pull request by grunweg**
... assuming they're modelled over a locally compact field. (Currently, the only such instances in mathlib are $\mathbb{R}$ and $\mathbb{C}$. Once local compactness of the $p$-adic numbers is added to mathlib, this theorem will apply to them also.)

- part of the road towards Sard's theorem

-------------

I've tagged with both geometry and topology. Arguably, this result is at the intersection of both.

### CODE REVIEW

**Comment by grunweg** [comment]
Fixed linters errors and force-pushed.

While I was in the area, I removed some extraneous Set. qualifiers in both files (which are [slightly discouraged](https://github.com/leanprover-community/mathlib4/issues/7217)). Let me know if I should split that into a separate commit, or drop it entirely.

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/Data/Set/Image.lean [hunk 1]
```diff
@@ -290,6 +290,13 @@ theorem image_congr' {f g : α → β} {s : Set α} (h : ∀ x : α, f x = g x)
   image_congr fun x _ => h x
 #align set.image_congr' Set.image_congr'
 
+/-- Variant of `image_congr`, for one function being the identity. -/
+theorem image_congr'' {α β : Type*} {f : α → β} {g : β → α} {s : Set α}
+    (h : ∀ x : α, x ∈ s → (g ∘ f) x = x) : g ∘ f '' s = s := by
+  have : ∀ x : α, x ∈ s → (g ∘ f) x = id x := fun x hx  ↦ id_def ▸ h x hx
+  rw [image_congr (this)]
+  aesop
```
Comment (alexjbest) [inline Mathlib/Data/Set/Image.lean:298]: Can this be something like `simpa [h] using image_congr' (f := g ∘ f) (g := id)`

Comment (grunweg) [reply Mathlib/Data/Set/Image.lean:298]: Not really: I could show `have : g ∘ f '' s = id '' s := by simpa [h] using image_congr (f := g ∘ f) (g := id) (s := s) h`, but then I have to simplify id '' s. I've pushed a tweak which does something similar.

One annoying detail is that image_id is only available a few lines below, so I've copied the proof.

File: Mathlib/Data/Set/Image.lean [hunk 2]
```diff
@@ -290,6 +290,12 @@ theorem image_congr' {f g : α → β} {s : Set α} (h : ∀ x : α, f x = g x)
   image_congr fun x _ => h x
 #align set.image_congr' Set.image_congr'
 
+/-- Variant of `image_congr`, for one function being the identity. -/
+theorem image_congr'' {α β : Type*} {f : α → β} {g : β → α} {s : Set α}
+    (h : ∀ x : α, x ∈ s → (g ∘ f) x = x) : g ∘ f '' s = s := by
+  rw [image_congr h]
```
Comment (sgouezel) [inline Mathlib/Data/Set/Image.lean:296]: You're stating this lemma for a composition `g ∘ f` through an intermediate type beta, but wouldn't it be true for any function from alpha to itself? It should probably be written with `EqOn f id s`.

File: Mathlib/Geometry/Manifold/Topology.lean [hunk 3]
```diff
@@ -0,0 +1,79 @@
...
+# Topological property of topological or smooth manifolds
+In this file, we prove a few basic topological properties of manifolds.
+Let $M$ be a topological manifold (not necessarily C^n or smooth).
+* `locallyCompact_of_finiteDimensional_of_boundaryless`: If `M` is finite-dimensional, boundaryless
+  and the underlying field `𝕜` is locally compact (such as ℝ, ℂ or the p-adic numbers),
+  `M` is locally compact.
+
+**TODO:**
+* adapt the argument to include manifolds with boundary; this probably requires a
+stronger definition of boundary to show local compactness of the half-spaces
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/Topology.lean:18]: I don't think you need any stronger definition: the definition of model with corner implies the fact that the range of `I` is closed (see `ModelWithCorners.closed_range`), which should be enough for all your needs. Also, the proof below is too complicated, since you can rely on [ChartedSpace.locallyCompactSpace](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Manifold/ChartedSpace.html#ChartedSpace.locallyCompactSpace) which already contains the essence of the result.

**Comment by sgouezel** [comment]
I think the content of the PR is already essentially in the library (in greater generality as it doesn't assume boundaryless). To see what is already there, an invaluable tool is loogle: go to https://loogle.lean-lang.org/ and ask for `LocallyCompactSpace, ChartedSpace` or for `LocallyCompactSpace, ModelWithCorners` to see if we have already lemmas talking about locally compact manifolds.

File: Mathlib/Data/Set/Image.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Data/Set/Image.lean]: Oh, indeed. You're right; I've generalised this and moved it to Data/Set/Function.lean.

**Comment by grunweg** [comment]
I hadn't seen this - this is very nice. Thanks for pointing this out. So far, loogle never worked for me - but now it just did. I guess I'll just be happy I learned a new trick...

With this, the PR whittles down to one lemma of about five lines. I've moved it back.

**Comment by sgouezel** [comment]
bors r+
Thanks!
